// Generated for: spectre
// Generated on: Aug  5 16:04:28 2024
// Design library name: LDO_Cai
// Design cell name: tb_Stability_5u
// Design view name: schematic
simulator lang=spectre
global 0
parameters C1 C2 C3 CDDA IBP R1 VB1 VB2 VBN1 VBN2 VBP VBP1 VBP2 VD
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_dnw
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_bip_npn
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfrtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_disres
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_res
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_lvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_sa
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_esd
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmim
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_mos_cap
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_25ud18
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfjvar
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmos_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rtmom
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25od33
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_dio_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfres_rpo
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_hvt
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfind
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_rfmvar_25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_na25
include "/data/PDK/pdk_installed/tsmc65_gp/tsmcN65/../models/spectre/crn65gplus_2d5_lk_v1d0.scs" section=tt_lvt

// Library name: LDO_Cai
// Cell name: LDO_Core
// View name: schematic
subckt LDO_Core IBP VB1 VB2 VBN1 VBN2 VBP VBP1 VBP2 VD VFB_IN VFB_OUT VIN \
        VOUT VREF VSS
    M57 (S2 net059 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M46 (net059 net028 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M55 (S1 net044 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M45 (net044 net028 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M44 (net029 net028 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M43 (net028 net028 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M14 (VFB_OUT VB2 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M19 (VG VE VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 sd=200n \
        ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 sa=175n \
        sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M18 (VE VD net052 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M16 (net052 VB2 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M11 (VSET net25 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M35 (net29 VBN1 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M34 (V_AUX_OUT VREF net29 VSS) nch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M33 (net31 V_AUX_P net29 VSS) nch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M10 (net42 net16 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M9 (net43 net16 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M8 (net25 VBN2 net42 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M7 (net16 VBN2 net43 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M0 (net13 VB1 VSS VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M2 (net37 VREF net13 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M1 (net36 VOUT net13 VSS) nch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M56 (S2 net059 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M54 (S1 net044 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M53 (net059 S2 net084 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M50 (net044 S1 net085 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M51 (net059 IBP VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M52 (net084 IBP VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M49 (net085 IBP VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M48 (net044 IBP VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M47 (IBP IBP VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M42 (net029 net029 VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M41 (net028 net029 net086 net086) pch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M40 (net086 VG VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M13 (VFB_OUT VSET VOUT VOUT) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    MP (VOUT VG VIN VIN) pch_mac l=60n w=25.0u multi=1 nf=1 sigma=1 \
        sd=200n ad=4.375e-12 as=4.375e-12 pd=50.35u ps=50.35u nrd=0.004 \
        nrs=0.004 sa=175.00n sb=175.00n sca=0 scb=0 scc=0 mismatchflag=1
    M15 (net052 VFB_IN VG VG) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M17 (VE VBP VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 sd=200n \
        ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 sa=175n \
        sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M20 (VG VBP VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 sd=200n \
        ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 sa=175n \
        sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M12 (VSET VSET V_AUX_P V_AUX_P) pch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M32 (V_AUX_OUT net31 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M31 (net31 net31 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M23 (V_AUX_P V_AUX_OUT VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 \
        sigma=1 sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 \
        nrs=0.5 sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M22 (net39 S2 net25 net25) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M21 (net41 S1 net25 net25) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M6 (net25 VBP2 net37 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M5 (net16 VBP2 net36 VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M4 (net37 VBP1 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    M3 (net36 VBP1 VIN VIN) pch_mac l=60n w=200n multi=1 nf=1 sigma=1 \
        sd=200n ad=3.5e-14 as=3.5e-14 pd=750n ps=750n nrd=0.5 nrs=0.5 \
        sa=175n sb=175n sca=0 scb=0 scc=0 mismatchflag=1
    R1 (net41 net40) resistor r=R1
    CDDA (V_AUX_P VSS) capacitor c=CDDA
    C3 (net25 VSS) capacitor c=C3
    C2 (net39 VSS) capacitor c=C2
    C1 (net40 VSS) capacitor c=C1
ends LDO_Core
// End of subcircuit definition.

// Library name: LDO_Cai
// Cell name: tb_Stability_5u
// View name: schematic
V10 (VBP1 0) vsource dc=VBP1 type=dc
V9 (VBP 0) vsource dc=VBP type=dc
V8 (VD 0) vsource dc=VD type=dc
V7 (VBP2 0) vsource dc=VBP2 type=dc
V6 (VBN1 0) vsource dc=VBN1 type=dc
V5 (VBN2 0) vsource dc=VBN2 type=dc
V4 (VB2 0) vsource dc=VB2 type=dc
V3 (VB1 0) vsource dc=VB1 type=dc
V2 (VIN 0) vsource dc=1.2 type=dc
V1 (VREF 0) vsource dc=1 type=dc
V0 (VSS 0) vsource dc=0 type=dc
I1 (VOUT VSS) isource dc=5u type=dc
I3 (IBP 0) isource dc=IBP type=dc
C0 (VOUT VSS) capacitor c=300p
I0 (IBP VB1 VB2 VBN1 VBN2 VBP VBP1 VBP2 VD VFB_IN VFB_OUT VIN VOUT VREF \
        VSS) LDO_Core
IPRB0 (VFB_OUT VFB_IN) iprobe
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
stb stb start=1 stop=10G probe=IPRB0 localgnd=0 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
